US07405300B2
1-(Biphenyl-4-yl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 and subsequently treated with hydrochloric acid as described in Example 44 to afford 1-(biphenyl-4-yl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride (44% yield) as a cream solid. ESI/MS 382 (M+H), RT=2.87 min.

reactant | 1-(Biphenyl-4-yl)-2-chloro-1H-indole-3-carboxaldehyde | C1(=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl)C1=CC=CC=C1 | C21H14ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
product | 1-(biphenyl-4-yl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride | 44% yield | Cl.C1(=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1)C1=CC=CC=C1 | InChI=1S/C25H23N3O.ClH/c29-18-23-22-8-4-5-9-24(22)28(25(23)27-16-14-26-15-17-27)21-12-10-20(11-13-21)19-6-2-1-3-7-19;/h1-13,18,26H,14-17H2;1H
